US08278328B2
Description 75. N,N-bis(Phenylmethyl)-4-piperidinamine. (D75)
1,1-Dimethylethyl 4-[bis(phenylmethyl)amino]-1-piperidinecarboxylate D74 (160 g, 420 mmol) was dissolved in dichloromethane (DCM) (1 L) and TFA (188 mL, 2443 mmol) was added dropwise at room temperature. The resulting mixture was stirred for 3 h then further 100 mL of TFA was added and stirred for 2 h. The mixture was concentrated under reduced pressure and the residue treated with saturated solution NaHCO3 (1.5 L) and NaOH (3M solution; 200 mL) to basic pH. The aqueous phase was extracted with DCM (2×1.5 L). Combined organic layers were diluted with ethyl acetate (100 mL), washed with water (1×1 L) and brine (1×1 L) then dried on Na2SO4 and concentrated to obtain title material (118 g; 100%).

reactant | 1,1-Dimethylethyl 4-[bis(phenylmethyl)amino]-1-piperidinecarboxylate | C1(=CC=CC=C1)CN(C1CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C24H32N2O2
reactant | TFA | 2443 mmol, 188 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | N,N-bis(Phenylmethyl)-4-piperidinamine | 118 g, 100% | C1(=CC=CC=C1)CN(C1CCNCC1)CC1=CC=CC=C1 | C19H24N2
